US07795280B2
1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid (Compound 30, Structure 14 of Scheme IV, where R1=3,5-difluorophenyl, R2=2-nitrophenyl, R3=R4=H)
To a solution of 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid methyl ester (150.0 mg, 0.33 mmol) in dioxane (20 mL) and water (15 mL) was added LiOH.H2O (83.1 mg, 2.0 mmol) in 5 ml water. The reaction mixture was stirred overnight at 60° C. The mixture was then acidified to pH 4 by addition of 15% aqueous HCl and the mixture was extracted twice with ethyl acetate. The combined organic layers were dried over Na2SO4 and concentrated in vacuo to give a yellow powder. The product was recrystallised from heptane/ethyl acetate to give the title compound as yellow/orange crystals (129.3 mg, y=89%)

reactant | 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid methyl ester | 0.33 mmol, 150.0 mg | COC(=O)C1=CC=C2C(=CN(C2=C1)CC1=CC(=CC(=C1)F)F)SC1=C(C=CC=C1)[N+](=O)[O-] | C23H16F2N2O4S
reactant | LiOH.H2O | 2.0 mmol, 83.1 mg | O[Li].O
reactant | HCl | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
solvent | water | 5 ml | O | H2O
product | 1-(3,5-Difluoro-benzyl)-3-(2-nitro-phenylsulfanyl)-1H-indole-6-carboxylic acid | 129.3 mg, 89% | FC=1C=C(CN2C=C(C3=CC=C(C=C23)C(=O)O)SC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C22H14F2N2O4S
